US06809110B2
In analogy to the procedure described in example 14 b], (2S)-2-ethoxy-3-(2-fluoro-4-hydroxy-phenyl)-propionic acid methyl ester was reacted with 4-chloromethyl-2-(4-chloro-phenyl)-thiazole (example 14 a]) in the presence of cesium carbonate and potassium iodide to yield (S)-3-{4-[2-(4-chloro-phenyl)-thiazol-4-ylmethoxy]-2-fluoro-phenyl}-2-ethoxy-propionic acid methyl ester as light yellow oil.

reactant | (2S)-2-ethoxy-3-(2-fluoro-4-hydroxy-phenyl)-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)O)F)OCC)=O | C12H15FO4
reactant | 4-chloromethyl-2-(4-chloro-phenyl)-thiazole | ClCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C10H7Cl2NS
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
product | (S)-3-{4-[2-(4-chloro-phenyl)-thiazol-4-ylmethoxy]-2-fluoro-phenyl}-2-ethoxy-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)OCC=1N=C(SC1)C1=CC=C(C=C1)Cl)F)OCC)=O | C22H21ClFNO4S
